Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea, Vomiting
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ year old male with eating disorder (purging) and 
depression/anxiety presented to ED with 1 day of nausea, 
vomiting, and diarrhea, found to be profoundly hypophosphatemic 
and hypomagnesemic. Patient reports being in his usual state of 
health until around ___ ___ on day of presentation, when he began 
feeling nauseous. His symptoms then progressed to vomiting and 
diarrhea, both of which were significant. He then began feeling 
diffuse body tingling and weakness, prompting him to come to the 
ED.

 
Past Medical History:
- Eating disorder (purging)
- Anxiety/depression
- Asthma
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
======================== 
VITALS:  98.5.  115 / 70  ___
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII grossly intact, ___ strength throughout

DISCHARGE PHYSICAL EXAM
=======================

VITALS: ___ 1128 Temp: 98.3 PO BP: 115/69 L Lying HR: 80 
RR:
18 O2 sat: 97% O2 delivery: Ra 

General: Alert, oriented, no acute distress  
HEENT: NC/AT, Sclera anicteric, MMM, oropharynx clear. No
conjunctival injection. 
CV: Regular rate and rhythm, no murmurs, rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi. No increased work of breathing. 
Abdomen: Soft, non-tender, non-distended, +bowel sounds, no
rebound or guarding  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII grossly intact, ___ strength throughout

 
Pertinent Results:
DISCHARGE LABS
==============
___ 04:50AM BLOOD WBC-5.3 RBC-5.23 Hgb-15.9 Hct-47.8 MCV-91 
MCH-30.4 MCHC-33.3 RDW-13.0 RDWSD-43.3 Plt ___
___ 04:50AM BLOOD Plt ___
___ 04:50AM BLOOD Glucose-88 UreaN-10 Creat-1.0 Na-140 
K-4.3 Cl-103 HCO3-25 AnGap-12
___ 04:50AM BLOOD Calcium-8.9 Phos-2.4* Mg-1.9

ADMISSION & PERTINENT 
======================
___ 06:09AM BLOOD Amylase-50
___ 08:54PM BLOOD WBC-15.9* RBC-5.75 Hgb-17.6* Hct-51.7* 
MCV-90 MCH-30.6 MCHC-34.0 RDW-12.7 RDWSD-41.9 Plt ___
___ 08:54PM BLOOD Neuts-88.0* Lymphs-3.8* Monos-6.5 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-14.03* AbsLymp-0.61* 
AbsMono-1.04* AbsEos-0.03* AbsBaso-0.06
___ 08:54PM BLOOD Plt ___
___ 08:54PM BLOOD Glucose-125* UreaN-17 Creat-1.0 Na-137 
K-4.4 Cl-101 HCO3-20* AnGap-16
___ 08:54PM BLOOD ALT-19 AST-28 AlkPhos-71 TotBili-0.8
___ 08:54PM BLOOD Albumin-4.6 Calcium-10.0 Phos-1.0* 
Mg-1.1*
___ 08:54PM BLOOD TSH-1.0

IMAGING: 
CXR ___: Lungs are well expanded and clear.  
Cardiomediastinal silhouette and hila are normal.  No 
pneumothorax or pleural effusion.  No pneumomediastinum or 
pneumoperitoneum detected. IMPRESSION: No acute process. 
  

 
Brief Hospital Course:
This is a ___ year old male with a past medical history 
significant for an eating disorder who presented to the ED with 
nausea, vomiting, diarrhea and found to be severe 
hypophosphatemic and hypomagnesemic.

ACUTE ISSUES
# Nausea, vomiting, diarrhea 
# Norovirus
Likely caused by viral gastroenteritis. His Norovirus PCR came 
back positive while in the hospital. His electrolyte 
abnormalities that resulted from his vomiting and diarrhea were 
treated as detailed below. He tolerated a PO diet prior to 
discharge. 

# Hypophosphatemia 
# Hypomagnesaemia 
The patient presented with severe electrolyte abnormalities (Mg: 
1.1, PO4: 1.0) likely secondary to vomiting and diarrhea. He was 
given IV and PO electrolyte repletion in the ED and upon arrival 
to the medicine floor and his electrolyte abnormalities 
resolved. 

# Eating Disorder/Purging 
Patient with history of purging though has cut back 
significantly in recent months (now only once per week). Per PCP 
notes, patient has gained 12 lbs in the past few months. He 
follows with a psychiatrist and nutritionist. ECG was 
unremarkable. Orthostatic vital signs were negative. He was 
continued on Telemetry. He received MVI with minerals, 
neutra-phos, and Thiamine 100mg daily. 

CHRONIC ISSUES: 
# Anxiety/depression - Continued sertraline 150mg daily

# Asthma - Continued albuterol prn 

TRANSITIONAL ISSUES:
===================
[] Follow up with PCP-- ___ have electrolytes and CBC checked 
at next visit
[] Continue to follow with psych for eating disorder 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 150 mg PO DAILY 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing 

 
Discharge Medications:
1.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*9 Tablet Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing  
3.  Sertraline 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypomagnesemia 
Hypophosphatemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Mr. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because you were having 
diarrhea and nausea and were found to have very low magnesium 
and phosphate levels

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were found to have Norovirus 
- You were given IV magnesium and phosphate 
- Your nausea and diarrhea improved while you were in the 
hospital 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please take your medications and go to your follow up 
appointments as described in this discharge summary.  
- If you experience any of the danger signs listed below, please 
call your primary care doctor or go to the emergency department 
immediately.  

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___